US08541448B2
Compound 48: (E)-N-(diaminomethylene)-3-(3,5-difluoro-4-(4-(N-(2-(2-(2-(2-(4-(hydroxymethyl)-1H-1,2,3-triazol-1-yl)ethoxy)ethoxy)ethoxy)ethyl)sulfamoyl)phenoxy)phenyl)-2-methylacrylamide
To a mixture of (E)-3-(4-(4-(N-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)sulfamoyl)phenoxy)-3,5-difluorophenyl)-N-(diaminomethylene)-2-methylacrylamide (70 mg, 0.11 mmol) and propargyl alcohol (6.4 mg. 0.11 mmol) in t-butanol (0.22 mL) and water (0.22 mL) was added 1 M sodium ascorbate (11 μL, 0.011 mmol) and 0.3 M copper sulfate (3.6 μL, 0.0011 mmol) and the reaction was stirred at RT. After 14 hours, the product was purified by preparative HPLC to give the title compound (22 mg) as a TFA salt. 1H-NMR (400 mHz, CD3OD) δ 7.93 (s, 1H), 7.84 (m, 2H), 7.44 (s, 1H), 7.30 (m, 2H), 7.11 (m, 2H), 4.64 (d, j=0.6 Hz, 2H), 4.55 (t, j=5.0 Hz, 2H), 3.86 (t, j=5.0 Hz, 2H), 3.57 (m, 4H), 3.52-3.42 (m, 6H), 3.03 (t, j=5.4 Hz, 2H), 2.18 (d, j=1.3 Hz, 3H). MS (m/z): 668.14 (M+H).

reactant | (E)-3-(4-(4-(N-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)sulfamoyl)phenoxy)-3,5-difluorophenyl)-N-(diaminomethylene)-2-methylacrylamide | 0.11 mmol, 70 mg | N(=[N+]=[N-])CCOCCOCCOCCNS(=O)(=O)C1=CC=C(OC2=C(C=C(C=C2F)/C=C(/C(=O)N=C(N)N)\C)F)C=C1 | C25H31F2N7O7S
reactant | propargyl alcohol | 0.11 mmol, 6.4 mg | C(C#C)O | C3H4O
reactant | sodium ascorbate | 0.011 mmol, 1 M, 11 μL | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-butanol | 0.22 mL | C(C)(C)(C)O | C4H10O
solvent | water | 0.22 mL | O | H2O
catalyst | copper sulfate | 0.0011 mmol, 0.3 M, 3.6 μL | S(=O)(=O)([O-])[O-].[Cu+2]
product | (E)-N-(diaminomethylene)-3-(3,5-difluoro-4-(4-(N-(2-(2-(2-(2-(4-(hydroxymethyl)-1H-1,2,3-triazol-1-yl)ethoxy)ethoxy)ethoxy)ethyl)sulfamoyl)phenoxy)phenyl)-2-methylacrylamide | 22 mg | NC(=NC(\C(=C\C1=CC(=C(C(=C1)F)OC1=CC=C(C=C1)S(NCCOCCOCCOCCN1N=NC(=C1)CO)(=O)=O)F)\C)=O)N | C28H35F2N7O8S
